US04801717
N-hydroxy-phthalimide and 4-bromo-8-trifluoromethylquinoline (a known compound) were reacted to obtain 0-(8-trifluoromethyl-4-quinolyl)-phthalimide which was reacted to obtain 0-(8-trifluoromethyl-4-quinolyl)-hydroxylamine melting at 152° C.

reactant | N-hydroxy-phthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 4-bromo-8-trifluoromethylquinoline | BrC1=CC=NC2=C(C=CC=C12)C(F)(F)F | C10H5BrF3N
product | 0-(8-trifluoromethyl-4-quinolyl)-phthalimide | FC(C=1C=CC=C2C(=CC=NC12)C12C(C(=O)NC1=O)C=CC=C2)(F)F | C18H11F3N2O2
